US06063782
3.74 g (0.024 mole) of ethyl N-(2-butenyl)glycinate were added to a solution of 5.0 g (0.038 mole) of 3-chloro-2-methyl-2-pentenal in 10 ml of ethanol with stirring, and subsequently 6 ml (0.043 mole) of triethylamine were added thereto and stirred at room temperature for 7 hours. After the precipitates deposited were filtered off, 5.35 g (0.048 mole) of potassium tert-butoxide were added to the filtrate by portions and the mixture was stirred for 30 minutes. The reaction mixture was poured into about 150 ml of a saturated aqueous solution of ammonium chloride and extracted with ethyl acetate (once with 100 ml and twice with 50 ml). The combined extracts were washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate, and the solvent was distilled off. The residue was purified by column chromatography through silica gel using a 3:97 mixture of ethyl acetate and hexane as an eluent to give 1.53 g of ethyl 1-(2-butenyl)-5-ethyl-4-methylpyrrole-2-carboxylate (cis/trans=76/24) as an orange oil.

reactant | ethyl N-(2-butenyl)glycinate | 0.024 mole, 3.74 g | C(C=CC)NCC(=O)OCC | C8H15NO2
reactant | 3-chloro-2-methyl-2-pentenal | 0.038 mole, 5.0 g | ClC(=C(C=O)C)CC | C6H9ClO
reactant | triethylamine | 0.043 mole, 6 ml | C(C)N(CC)CC | C6H15N
reactant | potassium tert-butoxide | 0.048 mole, 5.35 g | CC(C)([O-])C.[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 1-(2-butenyl)-5-ethyl-4-methylpyrrole-2-carboxylate | 1.53 g | C(C=CC)N1C(=CC(=C1CC)C)C(=O)OCC | C14H21NO2
